US04647702
Dehydroxylation of Benzoin. Diphenylphosphinouschloride (5.0 g, 22.6 mmol) was added dropwise to a suspension of lithium shot (158 mg, 22.6 mmol) in THF (10 ml) at room temperature. After about 2 hours all the lithium had dissolved and a solution of benzoin (2.4 g, 11.3 mmol) in THF (25 ml) was added dropwise. The clear yellow reaction mixture was stirred overnight at room temperature and turned a bright orange color. Acetic acid (678 mg, 11.2 mmol) was then added, followed by methyliodide (1.6 g, 11.3 mmol). After stirring for an additional 30 minutes, the reaction mixture was poured into water (100 ml) and extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate and concentrated in vacuo giving a yellow oil. MPLC purification on silica gel (eluting solvent, ethyl acetate) gave desoxybenzoin (1.7 g, 76 wt % yield) as a white crystalline solid.

reactant | Benzoin | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | Diphenylphosphinouschloride | 22.6 mmol, 5.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)Cl | C12H10ClP
reactant | lithium | [Li] | Li
reactant | benzoin | 11.3 mmol, 2.4 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | Acetic acid | 11.2 mmol, 678 mg | C(C)(=O)O | C2H4O2
reactant | methyliodide | 11.3 mmol, 1.6 g | CI | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | desoxybenzoin | 1.7 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
